US04243666
N-n-Butylnicotinamide (7.0 g) in acetic acid (100 ml) was hydrogenated over platinum oxide at 50° and 50 p.s.i. The catalyst was removed by filtration, the filtrate evaporated and the residue treated with toluene and evaporated in vacuo. The residue in chloroform (50 ml) was washed with sodium bicarbonate solution (3×50 ml) the organic layer separated, dried (Na2SO4) and the solvent evaporated in vacuo to give as an oil 3-(N-n-butylcarbamoyl)piperidine (3.8 g).

reactant | N-n-Butylnicotinamide | 7.0 g | C(CCC)NC(C1=CN=CC=C1)=O | C10H14N2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | [Pt]=O
product | 3-(N-n-butylcarbamoyl)piperidine | 3.8 g | C(CCC)NC(=O)C1CNCCC1 | C10H20N2O
